US04861798
9(4-Hydroxyphenyl)nonanoic acid, methyl ester
A mixture of 31.8 gms 9(4-hydroxyphenyl)-nonanoic acid, 15 gm molecular sieves (3A), 320 ml methanol, and 5 ml H2SO4 was refluxed for 48 hrs. The reaction mixture was cooled, filtered through diatomaceous earth, and the methanol removed in vacuo. The residue was dissolved in CHCl3, washed twice with 5% NaHCO3, twice with water, and once with NaCl solution. The aqueous phase was back-washed with ether. The organic layers were filtered, combined, dried over MgSO4, treated with decolorizing carbon, and filtered through diatomaceous earth. The solvents were removed in vacuo and the resulting solid was crystallized from hexanes:CH2Cl2 to give 23.5 gms of product, mp. 52°-4°. A further 4 gms ester was recovered from the mother liquors, after a second crystallization.

reactant | 9(4-hydroxyphenyl)-nonanoic acid | 31.8 gms | OC1=CC=C(C=C1)CCCCCCCCC(=O)O | C15H22O3
reactant | H2SO4 | 5 ml | OS(=O)(=O)O | H2O4S
reactant | methanol | 320 ml | CO | CH4O
product | 9(4-Hydroxyphenyl)nonanoic acid, methyl ester | 23.5 gms | OC1=CC=C(C=C1)CCCCCCCCC(=O)OC | C16H24O3
